US08183381B2
Step 4: 5-((2H-1,2,3-Triazol-4-yl)methoxy)-2-(1H-tetrazol-1-yl)pyridine
To a solution of (4-((6-(1H-tetrazol-1-yl)pyridin-3-yloxy)methyl)-1H-1,2,3-triazol-1-yl)methyl pivalate (10 g, 27.9 mmol) in MeOH (60 mL) and THF (6 mL) was added sodium hydroxide (61.5 mL of a 1M solution in water). The mixture was stirred for 30 minutes and hydrochloric acid was added (61.5 mL of a 1M solution in water). The resulting solution was extracted with ethyl acetate, separated, dried over sodium sulfate, filtered and concentrated in vacuo to afford the expected product which was used in subsequent steps without further purification. 1H NMR (DMSO-d6): δ 10.07 (1H, s), 8.43-8.41 (2H, m), 8.00 (1H, d, J=8.8 Hz), 7.88 (1H, dd, J=3.2, 8.8 Hz), 6.32 (2H, s), 5.38 (2H, s), 1.08 (9H, s).

reactant | (4-((6-(1H-tetrazol-1-yl)pyridin-3-yloxy)methyl)-1H-1,2,3-triazol-1-yl)methyl pivalate | 27.9 mmol, 10 g | C(C(C)(C)C)(=O)OCN1N=NC(=C1)COC=1C=NC(=CC1)N1N=NN=C1 | C15H18N8O3
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | MeOH | 60 mL | CO | CH4O
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | 5-((2H-1,2,3-Triazol-4-yl)methoxy)-2-(1H-tetrazol-1-yl)pyridine | N=1NN=C(C1)COC=1C=CC(=NC1)N1N=NN=C1 | C9H8N8O
